US05385925
4'-[[2-n-Butyl-6-(3 -benzyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinon-1-yl)-benzimidazol-1-yl]methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 55 from 4'-[[2-n-butyl-6-(3-benzyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinon-1-yl)-benzimidazol-1-yl]methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl and methanol in methanolic hydrochloric acid.

reactant | 4'-[[2-n-butyl-6-(3-benzyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinon-1-yl)-benzimidazol-1-yl]methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2)N2C(N(CCC2)CC2=CC=CC=C2)=O | C55H50N8O
reactant | methanol | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
product | 4'-[[2-n-Butyl-6-(3 -benzyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinon-1-yl)-benzimidazol-1-yl]methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2)N2C(N(CCC2)CC2=CC=CC=C2)=O | C36H36N8O
